US04772600
2-(2-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A mixture of 9.7 g (0.0308 mole) of 2-(2-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester, 2.5 g (0.0339 mole) of sodium hydroxide (pellets), and 100 ml of ethanol-water (1:1) was refluxed for 1 hr. The ethanol was evaporated and the residual aqueous solution was extracted with methylene chloride (2×30 ml). The aqueous layer was acidified with concentrated hydrochloric acid and filtered. The filter cake was recrystallized from ethanol-water to give 7.0 g (79%). A 2.0-g portion was recrystallized from ethanol-isopropyl ether to give white needles, mp 227°-228° C.

reactant | 2-(2-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 0.0308 mole, 9.7 g | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=C(C=CC=C2)Cl)=O | C16H14ClN3O2
reactant | sodium hydroxide | 0.0339 mole, 2.5 g | [OH-].[Na+]
solvent | ethanol water | 100 ml | C(C)O.O
product | 2-(2-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | ClC1=C(C=CC=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
